US07915411B2
N′-(5-Cyano-2-heptafluoropropyl-pyrimidin-4-yl)-N,N-dimethyl-formamidine
The title compound was prepared from the reaction of 4-Amino-2-heptafluoropropyl-pyrimidine-5-carbonitrile with N,N-dimethylformamide dimethyl acetal using the procedure from Example 156B to provide the title compound.

reactant | 4-Amino-2-heptafluoropropyl-pyrimidine-5-carbonitrile | NC1=NC(=NC=C1C#N)C(C(C(F)(F)F)(F)F)(F)F | C8H3F7N4
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
product | N′-(5-Cyano-2-heptafluoropropyl-pyrimidin-4-yl)-N,N-dimethyl-formamidine | C(#N)C=1C(=NC(=NC1)C(C(C(F)(F)F)(F)F)(F)F)N=CN(C)C | C11H8F7N5
